* source RLC
V_V2         N00103 0  
+PULSE 0 10 0 1n 1n 0.5m 1m
R_R1         N00103 N00141  2503  
L_L1         N00141 N00168  1.455  
C_C1         0 N00168  9.29n  
